US03962307
A mixture of 4-cyano-2,5-diisopropylbenzeneacetonitrile (22.6 parts), 4.8 parts of a 50% sodium hydride suspension in mineral oil, and 14.2 parts of methyl iodide in 300 parts tetrahydrofuran is stirred and heated at 50° for two hours. The reaction mixture is cooled and the tetrahydrofuran stripped under reduced pressure. The solid is washed with pentane and water and dried to give 4-cyano-2,5-diisopropyl-α-methylbenzeneacetonitrile.

reactant | 4-cyano-2,5-diisopropylbenzeneacetonitrile | C(#N)C1=CC(=C(C=C1C(C)C)CC#N)C(C)C | C15H18N2
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-cyano-2,5-diisopropyl-α-methylbenzeneacetonitrile | C(#N)C1=CC(=C(C=C1C(C)C)C(C#N)C)C(C)C | C16H20N2
